US08609691B2
cis-4-(Isoquinolin-6-yloxy)-cyclohexylamine (21)
Starting from 6-fluoro-isoquinoline hydrochloride and cis-4-amino-cyclohexanol the title compound was prepared following the protocol described for compound (15). Rt=0.64 min (Method B). Detected mass: 243.2 (M+H+).

reactant | 6-fluoro-isoquinoline hydrochloride | Cl.FC=1C=C2C=CN=CC2=CC1
reactant | cis-4-amino-cyclohexanol | N[C@H]1CC[C@H](CC1)O | C6H13NO
product | cis-4-(Isoquinolin-6-yloxy)-cyclohexylamine | C1=NC=CC2=CC(=CC=C12)O[C@H]1CC[C@H](CC1)N | C15H18N2O
